US04133890
Commercial quantities of 4-(((1,3-benzodioxol-5-yl)methyl)amino)benzoic acid are generally prepared by reacting piperonal with ethyl 4-aminobenzoate in absolute ethanol in the presence of a catalytic amount of 4-toluenesulfonic acid monohydrate to give the intermediate ethyl 4-(((1,3-benzodioxol-5-yl)mehylene)amino)benzoate. The intermediate is isolated and reduced in absolute ethanol using sodium borohydrate. The resulting ethyl 4-(((1,3-benzodioxol-5-yl)methyl)amino)benzoate is not isolated, but immediately hydrolyzed with aqueous sodium hydroxide to give sodium 4-(((1,3-benzodioxol-5-yl)methyl)amino)benzoate. The salt is converted to 4-(((1,3-benzodioxol-5-yl)methyl)amino)benzoic acid with aqueous acetic acid. The above process has been used to give satisfactory yields and was used to produce a batch containing 33 kg of pharmaceutically-acceptable product.

reactant | 4-(((1,3-benzodioxol-5-yl)methyl)amino)benzoic acid | O1COC2=C1C=CC(=C2)CNC2=CC=C(C(=O)O)C=C2 | C15H13NO4
reactant | piperonal | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 4-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-(((1,3-benzodioxol-5-yl)mehylene)amino)benzoate | O1COC2=C1C=CC(=C2)C=NC2=CC=C(C(=O)OCC)C=C2 | C17H15NO4
